US04343811
2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid piperidide
An amount of 0.5 g (1.4 m mole) of 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5yloxy]-2-methyl-propanoic acid was dissolved in 25 ml of tetrahydrofurane and heated for four hours with 0.24 g (1.4 m mole) of N,N'-carbonyldiimidazole on a steam bath. Subsequently, 0.24 g (2.8 m mole) of piperidine were added, and the mixture was refluxed for 12 hours. After evaporation the residue was mixed with dilute hydrochloric acid and extracted with ether. The evaporated ether residue was purified by column chromatography with toluene/ethyl acetate (8:2) on silicagel.

reactant | 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5yloxy]-2-methyl-propanoic acid | 0.5 g | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C)C | C20H20ClNO3
reactant | piperidine | 0.24 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
product | 2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid piperidide | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)N1CCCCC1)(C)C)C)C | C25H29ClN2O2
